US04277394
(I) Production of BOC-(D)-Met-Gly-OH
In 20 ml of ethyl alcohol is dissolved 4.7 g of BOC-(D)-Met-Gly-OEt. After cooling, 16 ml of N-aqueous sodium hydroxide solution is added, and the mixture is stirred at room temperature for 1 hour. The ethyl alcohol is distilled off, and the residue, after adding aqueous citric acid solution to neutralize, is extracted with 100 ml of ethyl acetate, followed by washing with water and drying over anhydrous sodium sulphate. The AcOEt isdistilled off and the residue is crystallized with petroleum ether. Recrystallization from AcOEt-petroleum ether results in a yield of 3.8 g of the desired product, m.p. 124°-125° C., Rf1 =0.41, [α]D21 +12.3° (c=0.59, DMF)

reactant | BOC-(D)-Met-Gly-OEt | 4.7 g | N([C@H](CCSC)C(=O)NCC(=O)OCC)C(=O)OC(C)(C)C | C14H26N2O5S
reactant | sodium hydroxide | 16 ml | [OH-].[Na+]
solvent | ethyl alcohol | 20 ml | C(C)O | C2H6O
product | BOC-(D)-Met-Gly-OH | yield of 3.8 g | N([C@H](CCSC)C(=O)NCC(=O)O)C(=O)OC(C)(C)C | C12H22N2O5S
